* File: and2_dom.pex.netlist.pex
* Created: Sat Mar  5 10:56:03 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND2_DOM%CLK 5 9 13 27 31
c4 31 0 0.07776f
c5 27 0 0.0679366f
c6 24 0 0.0215f
c7 18 0 0.08496f
c8 13 0 0.01032f
c9 9 0 0.0292383f
c10 5 0 0.0300983f
r11 24 28 6.71231
r12 24 27 6.71539
r13 20 24 9.6
r14 18 31 8.58
r15 18 20 4.29
r16 11 13 15.4
r17 7 13 0.452212
r18 7 9 32.725
r19 5 28 50.05
r20 1 11 0.452212
r21 1 27 152.075
.ends

.subckt PM_AND2_DOM%B 3 21
c1 21 0 0.08748f
c2 14 0 0.0215f
c3 8 0 0.09558f
c4 3 0 0.0378383f
r5 14 17 6.71539
r6 10 14 9.6
r7 8 21 8.58
r8 8 10 4.29
r9 3 17 51.975
.ends

.subckt PM_AND2_DOM%Y 3 5 8 19 65
c4 65 0 0.05589f
c5 49 0 0.0130175f
c6 47 0 0.00775f
c7 44 0 0.00806f
c8 39 0 0.0260388f
c9 34 0 0.0353388f
c10 28 0 0.0215f
c11 22 0 0.0834567f
c12 19 0 0.377614f
c13 16 0 0.061065f
c14 15 0 0.14238f
c15 3 0 0.0300983f
r16 47 50 0.0434143
r17 47 49 0.0434463
r18 42 44 0.05
r19 40 56 1.31868
r20 39 40 10.4
r21 37 44 0.0046983
r22 37 39 0.37998
r23 34 50 0.53002
r24 34 35 10.8
r25 30 42 0.0046983
r26 30 49 0.21
r27 28 53 6.71231
r28 24 28 9.6
r29 19 22 0.039111
r30 16 65 8.58
r31 16 47 4.29
r32 16 22 0.27125
r33 15 24 4.29
r34 15 19 0.7
r35 7 56 2.01556
r36 7 8 8.8
r37 6 35 2.25379
r38 5 35 2.00432
r39 5 6 4.60915
r40 3 53 50.05
.ends

.subckt PM_AND2_DOM%A 3 22
c1 22 0 0.0729f
c2 18 0 0.0301f
c3 8 0 0.07965f
c4 3 0 0.0533183f
r5 14 18 5.39
r6 10 14 9.6
r7 8 22 8.58
r8 8 10 4.29
r9 1 18 3.88059
r10 1 3 86.625
.ends

.subckt PM_AND2_DOM%5 3 7 9 24 32 48 49
c6 46 0 0.0301f
c7 39 0 0.11187f
c8 36 0 0.08911f
c9 33 0 0.0216975f
c10 32 0 0.0291375f
c11 28 0 0.0353388f
c12 25 0 0.00496f
c13 24 0 0.0148775f
c14 21 0 0.00991876f
c15 7 0 0.0662183f
c16 3 0 0.0662183f
r17 42 46 5.39
r18 39 42 9.6
r19 34 36 0.00880368
r20 33 39 0.0434303
r21 33 34 0.35
r22 31 36 0.0338756
r23 31 32 0.47
r24 28 29 10.4
r25 26 36 0.0338756
r26 26 28 0.52998
r27 24 32 0.0446983
r28 24 25 0.24
r29 22 48 6.52463
r30 22 49 6.52463
r31 21 22 10.8
r32 19 25 0.0446983
r33 19 21 0.12002
r34 10 29 1.98375
r35 9 29 1.76338
r36 9 10 4.05605
r37 5 46 3.88059
r38 5 7 115.5
r39 1 46 3.88059
r40 1 3 125.125
.ends

.subckt PM_AND2_DOM%GND 1 4 6 10 12 15 28 30 34 35
c9 42 0 0.00867876f
c10 37 0 0.0117788f
c11 35 0 0.00248f
c12 30 0 0.091755f
c13 28 0 0.0421588f
c14 22 0 0.0260375f
c15 15 0 0.0731575f
c16 7 0 0.0322457f
c17 6 0 0.0283766f
c18 2 0 0.0309566f
r19 43 64 1.31868
r20 42 43 10.4
r21 37 38 9.6
r22 35 37 0.24
r23 30 34 0.13
r24 28 29 10.4
r25 26 35 0.0446983
r26 26 28 0.77998
r27 15 30 0.0184246
r28 15 45 0.0184246
r29 15 22 0.0184246
r30 15 31 0.0184246
r31 15 45 0.1075
r32 15 42 0.10002
r33 15 34 0.055
r34 15 31 0.185
r35 15 28 0.24002
r36 15 22 0.0525
r37 13 64 2.01556
r38 12 13 8.8
r39 11 29 1.98375
r40 10 29 1.76338
r41 10 11 4.05605
r42 7 38 4.62
r43 5 7 5.42059
r44 5 6 63.525
r45 2 6 4.81186
r46 2 4 4.8125
r47 1 15 10.8
r48 1 15 10.8
.ends

.subckt PM_AND2_DOM%VDD 1 2 3 34 55 57
c1 38 0 0.0173588f
c2 34 0 0.0669575f
c3 31 0 0.038435f
c4 28 0 0.00867876f
c5 24 0 0.02604f
c6 23 0 0.059515f
c7 20 0 0.00867876f
r8 38 39 10.8
r9 34 41 0.0184246
r10 34 47 0.0325
r11 34 47 0.031483
r12 34 41 0.095
r13 34 38 0.23998
r14 31 34 0.0184246
r15 31 34 0.0775
r16 29 57 6.44144
r17 28 34 0.09998
r18 28 29 10.8
r19 24 47 0.02
r20 24 34 0.12
r21 23 34 0.0184246
r22 23 34 0.12
r23 21 55 6.44144
r24 20 34 0.09998
r25 20 21 10.8
r26 4 39 2.25379
r27 3 39 2.00432
r28 3 4 4.60915
r29 2 34 10.4
r30 1 34 10.4
r31 1 47 10.4
.ends

.subckt PM_AND2_DOM%8 1 2
r0 1 2 2.2
.ends

.subckt PM_AND2_DOM%9 1 2
r0 1 2 2.2
.ends

.subckt PM_AND2_DOM%10 1 2
r0 1 2 7.5
.ends

