* File: and3_dom.pex.netlist.pex
* Created: Sat Mar  5 11:30:41 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND3_DOM%CLK 5 9 13 27 31
c4 31 0 0.07776f
c5 27 0 0.0584766f
c6 24 0 0.0215f
c7 18 0 0.08496f
c8 13 0 0.01032f
c9 9 0 0.0386983f
c10 5 0 0.0300983f
r11 24 28 6.71231
r12 24 27 6.71539
r13 20 24 9.6
r14 18 31 8.58
r15 18 20 4.29
r16 11 13 15.4
r17 7 13 0.452212
r18 7 9 46.2
r19 5 28 50.05
r20 1 11 0.452212
r21 1 27 130.9
.ends

.subckt PM_AND3_DOM%C 5 26
c1 26 0 0.08748f
c2 20 0 0.0215f
c3 14 0 0.09558f
c4 9 0 0.00946f
c5 5 0 0.0472983f
c6 2 0 0.00945656f
r7 16 20 9.6
r8 14 26 8.58
r9 14 16 4.29
r10 7 9 13.475
r11 3 9 0.452212
r12 3 5 65.45
r13 2 20 6.71539
r14 1 7 0.452212
r15 1 2 21.175
.ends

.subckt PM_AND3_DOM%B 3 21
c1 21 0 0.08748f
c2 14 0 0.0215f
c3 8 0 0.09558f
c4 3 0 0.0558983f
r5 14 17 6.71539
r6 10 14 9.6
r7 8 21 8.58
r8 8 10 4.29
r9 3 17 84.7
.ends

.subckt PM_AND3_DOM%A 3 22
c1 22 0 0.0729f
c2 18 0 0.0301f
c3 8 0 0.07965f
c4 3 0 0.0722383f
r5 14 18 5.39
r6 10 14 9.6
r7 8 22 8.58
r8 8 10 4.29
r9 1 18 3.88059
r10 1 3 121.275
.ends

.subckt PM_AND3_DOM%Y 3 5 8 18 19 20 60
c10 60 0 0.05589f
c11 49 0 0.0130175f
c12 47 0 0.00775f
c13 44 0 0.00806f
c14 39 0 0.0260388f
c15 34 0 0.0353388f
c16 28 0 0.0215f
c17 22 0 0.129229f
c18 20 0 0.0107706f
c19 19 0 0.350686f
c20 18 0 0.0198919f
c21 14 0 0.061065f
c22 13 0 0.082305f
c23 3 0 0.0300983f
r24 47 50 0.0434143
r25 47 49 0.0434463
r26 42 44 0.05
r27 40 56 1.31868
r28 39 40 10.4
r29 37 44 0.0046983
r30 37 39 0.37998
r31 34 50 0.53002
r32 34 35 10.8
r33 30 42 0.0046983
r34 30 49 0.21
r35 28 53 6.71231
r36 24 28 9.6
r37 19 22 0.039111
r38 19 20 0.77875
r39 18 20 0.039111
r40 14 60 8.58
r41 14 47 4.29
r42 14 22 0.42
r43 13 24 4.29
r44 13 18 0.07
r45 7 56 2.01556
r46 7 8 8.8
r47 6 35 2.25379
r48 5 35 2.00432
r49 5 6 4.60915
r50 3 53 50.05
.ends

.subckt PM_AND3_DOM%6 3 7 9 17 20 21 47 48
c11 45 0 0.0301f
c12 38 0 0.05841f
c13 36 0 0.00496f
c14 34 0 0.07147f
c15 31 0 0.0204575f
c16 30 0 0.0136375f
c17 28 0 0.00991752f
c18 24 0 0.0309988f
c19 21 0 0.00496f
c20 20 0 0.0223175f
c21 17 0 0.00991876f
c22 7 0 0.0662183f
c23 3 0 0.0662183f
r24 41 45 5.39
r25 38 41 9.6
r26 32 36 0.00880368
r27 31 38 0.0434303
r28 31 32 0.33
r29 29 34 0.0434143
r30 29 30 0.22
r31 28 34 0.0434463
r32 27 36 0.0338756
r33 27 28 0.16
r34 24 25 10.4
r35 22 36 0.0338756
r36 22 24 0.45998
r37 20 30 0.0446983
r38 20 21 0.36
r39 18 47 6.52463
r40 18 48 6.52463
r41 17 18 10.8
r42 15 21 0.0446983
r43 15 17 0.12002
r44 10 25 1.98375
r45 9 25 1.76338
r46 9 10 4.84451
r47 5 45 3.88059
r48 5 7 115.5
r49 1 45 3.88059
r50 1 3 125.125
.ends

.subckt PM_AND3_DOM%GND 1 4 6 9 11 14 27 29 33 34
c10 41 0 0.00867876f
c11 37 0 0.0215f
c12 36 0 0.0167388f
c13 34 0 0.00248f
c14 29 0 0.101675f
c15 27 0 0.0455688f
c16 21 0 0.0260375f
c17 14 0 0.0731575f
c18 6 0 0.0283766f
c19 2 0 0.0309566f
r20 42 63 1.31868
r21 41 42 10.4
r22 36 37 9.6
r23 34 36 0.32
r24 29 33 0.15
r25 27 28 10.4
r26 25 34 0.0446983
r27 25 27 0.69998
r28 14 29 0.0184246
r29 14 44 0.0184246
r30 14 21 0.0184246
r31 14 30 0.0184246
r32 14 44 0.1075
r33 14 41 0.10002
r34 14 33 0.055
r35 14 30 0.205
r36 14 27 0.32002
r37 14 21 0.0525
r38 12 63 2.01556
r39 11 12 8.8
r40 10 28 1.98375
r41 9 28 1.76338
r42 9 10 4.84451
r43 5 37 6.71231
r44 5 6 63.525
r45 2 6 4.81186
r46 2 4 4.8125
r47 1 14 10.8
r48 1 14 10.8
.ends

.subckt PM_AND3_DOM%VDD 1 2 3 9 34 38 55 57
c2 38 0 0.0173588f
c3 31 0 0.048355f
c4 28 0 0.00867876f
c5 24 0 0.02604f
c6 23 0 0.059515f
c7 20 0 0.00867876f
c8 9 0 0.0669575f
r9 38 39 10.8
r10 32 34 0.02
r11 29 57 6.44144
r12 28 29 10.8
r13 24 47 0.02
r14 21 55 6.44144
r15 20 21 10.8
r16 9 31 0.0184246
r17 9 41 0.0184246
r18 9 23 0.0184246
r19 9 32 0.0184246
r20 9 47 0.0325
r21 9 47 0.031483
r22 9 41 0.095
r23 9 38 0.23998
r24 9 31 0.0975
r25 9 34 0.0775
r26 9 28 0.09998
r27 9 23 0.12
r28 9 24 0.12
r29 9 20 0.09998
r30 4 39 2.25379
r31 3 39 2.00432
r32 3 4 4.60915
r33 2 9 10.4
r34 1 9 10.4
r35 1 47 10.4
.ends

.subckt PM_AND3_DOM%9 1 2
r0 1 2 1.65
.ends

.subckt PM_AND3_DOM%10 1 2
r0 1 2 1.65
.ends

.subckt PM_AND3_DOM%11 1 2
r0 1 2 1.65
.ends

.subckt PM_AND3_DOM%12 1 2
r0 1 2 7.5
.ends

