* File: and4_dom.pex.netlist.pex
* Created: Sat Mar  5 12:06:04 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND4_DOM%CLK 3 5 8 9 15 19 21 38
c11 38 0 0.07776f
c12 33 0 0.0215f
c13 25 0 0.08496f
c14 21 0 0.00344f
c15 19 0 0.0326783f
c16 15 0 0.0257983f
c17 11 0 0.0885766f
c18 9 0 0.00859656f
c19 8 0 0.0644966f
c20 6 0 0.00344f
c21 5 0 0.00515656f
c22 3 0 0.0257983f
r23 31 33 0.00154
r24 27 31 9.6
r25 25 38 8.58
r26 25 27 4.29
r27 17 19 55.825
r28 13 15 28.875
r29 12 33 3.88059
r30 11 17 4.30221
r31 11 12 190.575
r32 10 21 3.26053
r33 9 13 4.30221
r34 9 10 11.55
r35 8 33 6.71385
r36 7 21 0.847354
r37 7 8 144.375
r38 5 21 3.26053
r39 5 6 11.55
r40 1 6 4.30221
r41 1 3 28.875
.ends

.subckt PM_AND4_DOM%D 3 5 8 9 13 15 31
c10 31 0 0.08748f
c11 25 0 0.0215f
c12 19 0 0.09558f
c13 15 0 0.00344f
c14 13 0 0.0257983f
c15 9 0 0.00859656f
c16 8 0 0.0120366f
c17 6 0 0.00344f
c18 5 0 0.00515656f
c19 3 0 0.0257983f
r20 21 25 9.6
r21 19 31 8.58
r22 19 21 4.29
r23 11 13 28.875
r24 10 15 3.26053
r25 9 11 4.30221
r26 9 10 11.55
r27 8 25 6.71539
r28 7 15 0.847354
r29 7 8 26.95
r30 5 15 3.26053
r31 5 6 11.55
r32 1 6 4.30221
r33 1 3 28.875
.ends

.subckt PM_AND4_DOM%C 3 5 8 9 13 15 31
c10 31 0 0.08748f
c11 25 0 0.0215f
c12 19 0 0.09558f
c13 15 0 0.00344f
c14 13 0 0.0257983f
c15 9 0 0.00859656f
c16 8 0 0.0120366f
c17 6 0 0.00344f
c18 5 0 0.00515656f
c19 3 0 0.0257983f
r20 21 25 9.6
r21 19 31 8.58
r22 19 21 4.29
r23 11 13 28.875
r24 10 15 3.26053
r25 9 11 4.30221
r26 9 10 11.55
r27 8 25 6.71539
r28 7 15 0.847354
r29 7 8 26.95
r30 5 15 3.26053
r31 5 6 11.55
r32 1 6 4.30221
r33 1 3 28.875
.ends

.subckt PM_AND4_DOM%B 3 5 8 9 13 15 31
c10 31 0 0.08748f
c11 25 0 0.0215f
c12 19 0 0.09558f
c13 15 0 0.00344f
c14 13 0 0.0257983f
c15 9 0 0.00859656f
c16 8 0 0.0120366f
c17 6 0 0.00344f
c18 5 0 0.00515656f
c19 3 0 0.0257983f
r20 21 25 9.6
r21 19 31 8.58
r22 19 21 4.29
r23 11 13 28.875
r24 10 15 3.26053
r25 9 11 4.30221
r26 9 10 11.55
r27 8 25 6.71539
r28 7 15 0.847354
r29 7 8 26.95
r30 5 15 3.26053
r31 5 6 11.55
r32 1 6 4.30221
r33 1 3 28.875
.ends

.subckt PM_AND4_DOM%A 3 7 11 31
c3 31 0 0.0729f
c4 27 0 0.0301f
c5 17 0 0.07965f
c6 13 0 0.00344f
c7 11 0 0.0257983f
c8 7 0 0.0171966f
c9 6 0 0.0120366f
c10 3 0 0.0257983f
r11 23 27 5.38846
r12 19 23 9.6
r13 17 31 8.58
r14 17 19 4.29
r15 9 11 28.875
r16 8 13 0.847354
r17 7 9 4.30221
r18 7 8 30.8
r19 6 27 3.88059
r20 5 13 3.26053
r21 5 6 26.95
r22 1 13 3.26053
r23 1 3 28.875
.ends

.subckt PM_AND4_DOM%Y 3 5 8 18 19 20 60
c10 60 0 0.05589f
c11 49 0 0.0130175f
c12 47 0 0.00775f
c13 44 0 0.00806f
c14 39 0 0.0260388f
c15 34 0 0.0353388f
c16 28 0 0.0215f
c17 22 0 0.129229f
c18 20 0 0.0107706f
c19 19 0 0.656746f
c20 18 0 0.0198919f
c21 14 0 0.061065f
c22 13 0 0.082305f
c23 3 0 0.0300983f
r24 47 50 0.0434143
r25 47 49 0.0434463
r26 42 44 0.05
r27 40 56 1.31868
r28 39 40 10.4
r29 37 44 0.0046983
r30 37 39 0.37998
r31 34 50 0.53002
r32 34 35 10.8
r33 30 42 0.0046983
r34 30 49 0.21
r35 28 53 6.71231
r36 24 28 9.6
r37 19 22 0.039111
r38 19 20 1.58375
r39 18 20 0.039111
r40 14 60 8.58
r41 14 47 4.29
r42 14 22 0.42
r43 13 24 4.29
r44 13 18 0.07
r45 7 56 2.01556
r46 7 8 8.8
r47 6 35 2.25379
r48 5 35 2.00432
r49 5 6 4.60915
r50 3 53 50.05
.ends

.subckt PM_AND4_DOM%7 3 7 15 18 19 22 45 46 48 49
c12 43 0 0.0301f
c13 36 0 0.05841f
c14 34 0 0.00496f
c15 32 0 0.07147f
c16 29 0 0.0328575f
c17 28 0 0.0136375f
c18 26 0 0.00991752f
c19 22 0 0.0309988f
c20 19 0 0.00496f
c21 18 0 0.0669575f
c22 15 0 0.00991876f
c23 7 0 0.0662183f
c24 3 0 0.0662183f
r25 39 43 5.39
r26 36 39 9.6
r27 30 34 0.00880368
r28 29 36 0.0434303
r29 29 30 0.53
r30 27 32 0.0434143
r31 27 28 0.22
r32 26 32 0.0434463
r33 25 34 0.0338756
r34 25 26 0.16
r35 23 48 2.63934
r36 23 49 2.64066
r37 22 23 10.4
r38 20 34 0.0338756
r39 20 22 0.49998
r40 18 28 0.0446983
r41 18 19 1.08
r42 16 45 6.52305
r43 16 46 6.52621
r44 15 16 10.8
r45 13 19 0.0446983
r46 13 15 0.12002
r47 5 43 3.88059
r48 5 7 115.5
r49 1 43 3.88059
r50 1 3 125.125
.ends

.subckt PM_AND4_DOM%8 1 3 7 10 11 17 24 25
c10 21 0 0.00991876f
c11 18 0 0.00496f
c12 17 0 0.0198375f
c13 15 0 0.0148775f
c14 11 0 0.00186124f
c15 10 0 0.0223181f
c16 7 0 0.00868062f
r17 21 22 10.4
r18 19 21 0.12002
r19 17 19 0.0446983
r20 17 18 0.32
r21 15 16 10.4
r22 13 15 0.11998
r23 12 18 0.0446983
r24 12 15 0.12002
r25 10 13 0.0446983
r26 10 11 0.3
r27 8 24 2.63934
r28 8 25 2.64066
r29 7 8 10.4
r30 5 11 0.0446983
r31 5 7 0.11998
r32 4 22 1.98373
r33 3 22 1.76341
r34 3 4 3.74713
r35 2 16 1.98378
r36 1 16 1.76336
r37 1 2 3.74713
.ends

.subckt PM_AND4_DOM%9 1 3 7 10 11 17 24 25
c10 21 0 0.00991876f
c11 18 0 0.00496f
c12 17 0 0.0198375f
c13 15 0 0.0148775f
c14 11 0 0.00186124f
c15 10 0 0.0223181f
c16 7 0 0.00868062f
r17 21 22 10.4
r18 19 21 0.12002
r19 17 19 0.0446983
r20 17 18 0.32
r21 15 16 10.4
r22 13 15 0.11998
r23 12 18 0.0446983
r24 12 15 0.12002
r25 10 13 0.0446983
r26 10 11 0.3
r27 8 24 2.63934
r28 8 25 2.64066
r29 7 8 10.4
r30 5 11 0.0446983
r31 5 7 0.11998
r32 4 22 1.98373
r33 3 22 1.76341
r34 3 4 3.74713
r35 2 16 1.98378
r36 1 16 1.76336
r37 1 2 3.74713
.ends

.subckt PM_AND4_DOM%10 1 3 7 10 11 17 24 25
c10 21 0 0.00991876f
c11 18 0 0.00496f
c12 17 0 0.0198375f
c13 15 0 0.0148775f
c14 11 0 0.00186124f
c15 10 0 0.0223181f
c16 7 0 0.00868062f
r17 21 22 10.4
r18 19 21 0.12002
r19 17 19 0.0446983
r20 17 18 0.32
r21 15 16 10.4
r22 13 15 0.11998
r23 12 18 0.0446983
r24 12 15 0.12002
r25 10 13 0.0446983
r26 10 11 0.3
r27 8 24 2.63934
r28 8 25 2.64066
r29 7 8 10.4
r30 5 11 0.0446983
r31 5 7 0.11998
r32 4 22 1.98373
r33 3 22 1.76341
r34 3 4 3.74713
r35 2 16 1.98378
r36 1 16 1.76336
r37 1 2 3.74713
.ends

.subckt PM_AND4_DOM%11 1 3 7 10 11 17 24 25
c10 21 0 0.00991876f
c11 18 0 0.00496f
c12 17 0 0.0198375f
c13 15 0 0.0148775f
c14 11 0 0.00186124f
c15 10 0 0.0223181f
c16 7 0 0.00868062f
r17 21 22 10.4
r18 19 21 0.12002
r19 17 19 0.0446983
r20 17 18 0.32
r21 15 16 10.4
r22 13 15 0.11998
r23 12 18 0.0446983
r24 12 15 0.12002
r25 10 13 0.0446983
r26 10 11 0.3
r27 8 24 2.63934
r28 8 25 2.64066
r29 7 8 10.4
r30 5 11 0.0446983
r31 5 7 0.11998
r32 4 22 1.98373
r33 3 22 1.76341
r34 3 4 3.74713
r35 2 16 1.98378
r36 1 16 1.76336
r37 1 2 3.74713
.ends

.subckt PM_AND4_DOM%GND 1 4 6 9 11 13 16 33 34 38
c6 60 0 0.00496f
c7 48 0 0.00867876f
c8 43 0 0.00991876f
c9 39 0 0.0215f
c10 38 0 0.0911388f
c11 36 0 0.00496f
c12 34 0 0.0198375f
c13 33 0 0.0186f
c14 30 0 0.02604f
c15 29 0 0.166155f
c16 27 0 0.0533175f
c17 23 0 0.00495752f
c18 16 0 0.247993f
c19 6 0 0.0283766f
c20 2 0 0.0309566f
r21 49 74 1.31868
r22 48 49 10.4
r23 43 44 10.4
r24 41 43 0.12002
r25 38 39 9.6
r26 36 38 1.56002
r27 35 60 0.00880368
r28 34 41 0.0446983
r29 34 35 0.32
r30 30 58 0.01999
r31 29 33 0.67
r32 27 28 10.4
r33 25 36 0.0446983
r34 25 27 0.73998
r35 24 60 0.0338756
r36 24 27 0.12002
r37 23 60 0.0338756
r38 16 29 0.0184246
r39 16 51 0.0184246
r40 16 58 0.0325
r41 16 58 0.031483
r42 16 51 0.1075
r43 16 48 0.10002
r44 16 33 0.075
r45 16 30 0.745
r46 16 23 0.08
r47 14 74 2.01556
r48 13 14 8.8
r49 12 44 1.98373
r50 11 44 1.76341
r51 11 12 3.74713
r52 10 28 1.98378
r53 9 28 1.76336
r54 9 10 3.74713
r55 5 39 6.71231
r56 5 6 63.525
r57 2 6 4.81186
r58 2 4 4.8125
r59 1 16 10.8
r60 1 58 10.8
.ends

.subckt PM_AND4_DOM%VDD 1 2 3 31 42 57 59
c2 42 0 0.0173588f
c3 37 0 0.162435f
c4 34 0 0.00867876f
c5 31 0 0.136393f
c6 24 0 0.00867876f
c7 19 0 0.159958f
r8 42 43 10.8
r9 35 59 6.44299
r10 34 35 10.8
r11 31 37 0.0184246
r12 31 45 0.0184246
r13 31 38 0.0184246
r14 31 45 0.095
r15 31 42 0.23998
r16 31 37 0.3275
r17 31 38 0.3275
r18 31 34 0.09998
r19 28 31 0.0184246
r20 28 31 0.12
r21 25 57 6.4399
r22 24 31 0.09998
r23 24 25 10.8
r24 19 31 0.0184246
r25 19 31 0.3225
r26 4 43 2.25379
r27 3 43 2.00432
r28 3 4 4.60915
r29 2 31 10.4
r30 1 31 10.4
r31 1 31 10.4
.ends

.subckt PM_AND4_DOM%14 1 2
r0 1 2 7.5
.ends

